US04497651
89 parts of 7-chloro-8-methylquinoline and 0.5 part of azobisisobutyronitrile were introduced into 500 parts of dichlorobenzene and the mixture was heated to 140° C. Introduction of 80 parts of chlorine was started at this temperature the temperature being increased to 160° C. during this operation. After the addition of chlorine, the solution was flushed with nitrogen, most of the solvent was distilled off and the precipitated solid was filtered off with suction and washed with petroleum ether. 113 parts of 3,7-dichloro-8-chloromethylquinoline of melting point 129° C. were obtained. The yield corresponds to 93% of theory.

reactant | 7-chloro-8-methylquinoline | ClC1=CC=C2C=CC=NC2=C1C | C10H8ClN
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
reactant | dichlorobenzene | C1=CC(=CC=C1Cl)Cl | C6H4Cl2
reactant | chlorine | ClCl | Cl2
product | 3,7-dichloro-8-chloromethylquinoline | ClC=1C=NC2=C(C(=CC=C2C1)Cl)CCl | C10H6Cl3N
